US04952574
Using the general method of Example I Part A, 9.8 g (0.03 mole) of 2-hydroxy-N-(2-pyridylmethyl)-5-(2,2,2-trifluoroethoxy)benzamide was reacted with 7.0 g (0.042 mole) of ethyl bromoacetate to give 7.6 g of ivory powdery -(ethoxycarbonylmethoxy)-N-(2-pyridylmethyl)-5-(2,2,2-trifluoroethoxy)benzamide, m.p. 109°-111° C.

reactant | 2-hydroxy-N-(2-pyridylmethyl)-5-(2,2,2-trifluoroethoxy)benzamide | 0.03 mole, 9.8 g | OC1=C(C(=O)NCC2=NC=CC=C2)C=C(C=C1)OCC(F)(F)F | C15H13F3N2O3
reactant | ethyl bromoacetate | 0.042 mole, 7.0 g | BrCC(=O)OCC | C4H7BrO2
product | (ethoxycarbonylmethoxy)-N-(2-pyridylmethyl)-5-(2,2,2-trifluoroethoxy)benzamide | C(C)OC(=O)COC1=C(C(=O)NCC2=NC=CC=C2)C=C(C=C1)OCC(F)(F)F | C19H19F3N2O5
